// Open-loop output noise (Cadence Spectre).
//
// White + flicker noise are modeled in configurable_opamp.va (ENABLE_NOISE=1).
// RN is a high-Z fallback when VA white noise is disabled; engine sets rn_white_ohm.
//
// Run via:
//   python scripts/run_noise.py --simulator spectre --output-dir outputs/spectre

simulator lang=spectre

include "./testbench/spectre/opamp_include.scs"

parameters a0_db=80
parameters gbw_hz=10Meg
parameters rin_ohm=1T
parameters cin_f=1p
parameters rout_ohm=100
parameters cout_f=2p
parameters en_white_v_per_sqrt_hz=5e-9
parameters en_flicker_1hz_v_per_sqrt_hz=50e-9
parameters en_flicker_ef=1
parameters kf=0
parameters af=1
parameters bias_current_a=1u
parameters enable_noise=1
parameters en_flicker_corner_hz=100
parameters en_flicker_at_1hz_v_per_sqrt_hz=50e-9
parameters kT_v2_per_hz=4.142e-21
parameters rn_white_ohm=PLACEHOLDER_RN
parameters f_start=1
parameters f_stop=100Meg
parameters dec=10

VDD (vdd 0) vsource dc=1.8
VSS (vss 0) vsource dc=0.0
VCM (inn 0) vsource dc=0.9 type=dc

VAC (inp 0) vsource dc=0.9 type=sine ampl=1m freq=0 \
    acmag=1 acphase=0

RN (inp inn) resistor r=rn_white_ohm

XOP (inp inn out vdd vss) configurable_opamp \
    A0_DB=a0_db GBW_HZ=gbw_hz RIN_OHM=rin_ohm CIN_F=cin_f ROUT_OHM=rout_ohm COUT_F=cout_f \
    EN_WHITE_V_PER_SQRT_HZ=en_white_v_per_sqrt_hz \
    EN_FLICKER_1HZ_V_PER_SQRT_HZ=en_flicker_1hz_v_per_sqrt_hz \
    EN_FLICKER_EF=en_flicker_ef KF=kf AF=af BIAS_CURRENT_A=bias_current_a \
    ENABLE_NOISE=enable_noise

ROUT (out 0) resistor r=rout_ohm

save out
ac ac start=f_start stop=f_stop dec=dec annotate=status
noise noise start=f_start stop=f_stop dec=dec oprobe=ROUT iprobe=VAC annotate=status
